US08669234B2
[1-(2-{5-[4′-(2-Pyrrolidin-2-yl-3H-imidazol-4-yl)-biphenyl-4-yl]-1H-imidazol-2-yl}-pyrrolidine-1-carbonyl)-3-(2,2,2-trifluoroethoxy)-propyl]-carbamic acid methyl ester:
This compound was made by the same procedure as [4,4,4-Trifluoro-1-(2-{5-[4′-(2-pyrrolidin-2-yl-3H-imidazol-4-yl)-biphenyl-4-yl]-1H-imidazol-2-yl}-pyrrolidine-1-carbonyl)-butyl]-carbamic acid methyl ester, using 2-{5-[4′-(2-{1-[2-Methoxycarbonylamino-4-(2,2,2-trifluoro-ethoxy)-butyryl]-pyrrolidin-2-yl}-3H-imidazol-4-yl)-biphenyl-4-yl]-1H-imidazol-2-yl}-pyrrolidine-1-carboxylic acid tert-butyl ester as the starting material. LCMS-ESI+: calculated for C34H38F3N7O4: 665.29; observed [M+1]+: 666.20.

reactant | [4,4,4-Trifluoro-1-(2-{5-[4′-(2-pyrrolidin-2-yl-3H-imidazol-4-yl)-biphenyl-4-yl]-1H-imidazol-2-yl}-pyrrolidine-1-carbonyl)-butyl]-carbamic acid methyl ester | COC(NC(CCC(F)(F)F)C(=O)N1C(CCC1)C=1NC(=CN1)C1=CC=C(C=C1)C1=CC=C(C=C1)C=1NC(=NC1)C1NCCC1)=O | C33H36F3N7O3
reactant | 2-{5-[4′-(2-{1-[2-Methoxycarbonylamino-4-(2,2,2-trifluoro-ethoxy)-butyryl]-pyrrolidin-2-yl}-3H-imidazol-4-yl)-biphenyl-4-yl]-1H-imidazol-2-yl}-pyrrolidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1C(CCC1)C=1NC(=CN1)C1=CC=C(C=C1)C1=CC=C(C=C1)C=1NC(=NC1)C1N(CCC1)C(C(CCOCC(F)(F)F)NC(=O)OC)=O | C39H46F3N7O6
product | [1-(2-{5-[4′-(2-Pyrrolidin-2-yl-3H-imidazol-4-yl)-biphenyl-4-yl]-1H-imidazol-2-yl}-pyrrolidine-1-carbonyl)-3-(2,2,2-trifluoroethoxy)-propyl]-carbamic acid methyl ester | COC(NC(CCOCC(F)(F)F)C(=O)N1C(CCC1)C=1NC(=CN1)C1=CC=C(C=C1)C1=CC=C(C=C1)C=1NC(=NC1)C1NCCC1)=O | C34H38F3N7O4
